US09163012B2
To a stirred mixture of 2-bromo-5-methyl-pyridine (1.7 g, 10 mmol), 2,4,6-trivinyl-cyclotriboroxanein (1.20 g, 5 mmol) and Na2CO3 (3.73 g, 35.2 mmol) in toluene (15 mL)/EtOH (10 mL)/H2O (5 mL) was added Pd(PPh3)4 (300 mg, 0.25 mmol) under N2. The mixture was stirred at 100° C. overnight. The resulting mixture was quenched with water (20 mL) and extracted with EtOAc (30 mL×3). The combined organic layers were washed with water (50 mL) and brine (50 mL), dried over Na2SO4 and concentrated. The residue was purified by chromatography column (PE:EA=50:1) to afford 5-methyl-2-vinyl-pyridine (900 mg, 75.6%) as a yellow oil.

reactant | 2-bromo-5-methyl-pyridine | 10 mmol, 1.7 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | Na2CO3 | 35.2 mmol, 3.73 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | H2O | 5 mL | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.25 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-methyl-2-vinyl-pyridine | 900 mg, 75.6% | CC=1C=CC(=NC1)C=C | C8H9N
